US04419355
The starting substance is prepared as follows: 15.4 g (0.1 mole) of 2-cyano-quinoline are dissolved in 200 ml of anhydrous ether, and a Grignard reagent prepared from 2.5 g (0.13 moles) of 4-chloro-bromobenzene and 3.16 g (0.13 moles) of magnesium metal are added. The reaction mixture is allowed to stand overnight, thereafter it is poured into a mixture of 15 g of ammonium bromide and ice, acidified with sulfuric acid and the organic phase is separated. After evaporating the ether the product thus-obtained (24 g) is recrystallized from ethanol. The 2-(4-chlorobenzoyl)-quinoline is obtained with a yield of 89%.

reactant | 2-cyano-quinoline | 0.1 mole, 15.4 g | C(#N)C1=NC2=CC=CC=C2C=C1 | C10H6N2
reactant | 4-chloro-bromobenzene | 0.13 moles, 2.5 g | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | magnesium | 0.13 moles, 3.16 g | [Mg] | Mg
reactant | ammonium bromide | 15 g | [Br-].[NH4+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(4-chlorobenzoyl)-quinoline | yield of 89% | ClC1=CC=C(C(=O)C2=NC3=CC=CC=C3C=C2)C=C1 | C16H10ClNO
